US08957205B2
N—[N-[(Phenylmethoxy)carbonyl]-L-leucyl]-L-norleucinol
N-[(Phenylmethoxy)carbonyl]-L-leucine was used instead of 1-[[(phenylmethoxy)carbonyl]amino]cyclohexanecarboxylic acid and L-norleucinol was used instead of L-valinol in the process according to Example 1 to obtain 421 mg (58%) of the title compound.

reactant | N-[(Phenylmethoxy)carbonyl]-L-leucine | C1(=CC=CC=C1)COC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | L-norleucinol | N[C@@H](CCCC)CO | C6H15NO
product | N—[N-[(Phenylmethoxy)carbonyl]-L-leucyl]-L-norleucinol | 421 mg, 58% | C1(=CC=CC=C1)COC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCC)CO | C20H32N2O4
